US08981085B2
tert-Butyl (R)-1-(5-bromo-3-((R)-2-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.150 g, 0.311 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse chromatography (Biotage SP4, C-18 25M+, 0-50% CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-((R)-3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide hydrochloride (0.110 g, 78% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.16 (s, 1H), 7.44 (s, 1H), 3.99-3.96 (m, 2H), 3.91-3.87 (m, 1H), 3.71-3.64 (m, 2H), 3.57-3.53 (m, 1H), 3.36 (s, 3H), 2.44-2.39 (m, 1H), 2.06-2.02 (m, 1H), 1.31-1.29 (d, 3H). LCMS (APCI+) m/z 382, 384 (M+H)+.

reactant | tert-Butyl (R)-1-(5-bromo-3-((R)-2-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.311 mmol, 0.150 g | BrC=1C(=C2C(=NC1)NC=C2NC([C@@H](C)OC)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C20H28BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-((R)-3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide hydrochloride | 0.110 g, 78% yield | Cl.N[C@H]1CN(CC1)C1=C2C(=NC=C1Br)NC=C2NC([C@@H](C)OC)=O | InChI=1S/C15H20BrN5O2.ClH/c1-8(23-2)15(22)20-11-6-19-14-12(11)13(10(16)5-18-14)21-4-3-9(17)7-21;/h5-6,8-9H,3-4,7,17H2,1-2H3,(H,18,19)(H,20,22);1H/t8-,9-;/m1./s1
